US06008229
A mixture of 3-(3-tert-butyldiphenylsilyloxymethyl-2,4-dimethylphenyl)-2-cyanothiophene (471 mg) and 1M borane-tetrahydrofuran complex (3 ml) was stirred for 30 minutes at 0° C. under nitrogen atmosphere and allowed to stand at ambient temperature overnight. To the mixture was added 4N hydrochloric acid (1.5 ml) under ice-cooling, and the mixture was stirred for 1 hour. The mixture was partitioned between ethyl acetate and water, and the separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform:methanol=50:1, V/V) to give 2-aminomethyl-3-(3-tert-butyldiphenylsilyloxymethyl-2,4-dimethylphenyl)thiophene (415 mg) as oil.

reactant | 3-(3-tert-butyldiphenylsilyloxymethyl-2,4-dimethylphenyl)-2-cyanothiophene | 471 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1C)C1=C(SC=C1)C#N)C | C30H31NOSSi
reactant | hydrochloric acid | 4N, 1.5 ml | Cl | ClH
product | 2-aminomethyl-3-(3-tert-butyldiphenylsilyloxymethyl-2,4-dimethylphenyl)thiophene | 415 mg | NCC=1SC=CC1C1=C(C(=C(C=C1)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C30H35NOSSi
